US04663339
A mixture of 2-[4-(4-ethoxyphenoxy)benzylamino)-3-methylaniline (0.348 g) and acetic acid (5 ml) was heated under reflux for 6 hours and then cooled to room temperature. Excess acetic acid was removed by distillation under reduced pressure, and toluene (100 ml) and a 5% sodium hydroxide solution (50 ml) were added thereto, followed by stirring for 10 minutes. The toluene layer was separated, washed with water, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove toluene. The residue was purified by silica gel column chromatography to give 2,7-dimethyl-1-[4-(4-ethoxyphenoxy)benzyl]benzimidazole (0.315 g) as white crystals. m.p., 124.1° C.

reactant | 2-[4-(4-ethoxyphenoxy)benzylamino)-3-methylaniline | 0.348 g | C(C)OC1=CC=C(OC2=CC=C(CNC3=C(N)C=CC=C3C)C=C2)C=C1 | C22H24N2O2
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 2,7-dimethyl-1-[4-(4-ethoxyphenoxy)benzyl]benzimidazole | 0.315 g | CC1=NC2=C(N1CC1=CC=C(C=C1)OC1=CC=C(C=C1)OCC)C(=CC=C2)C | C24H24N2O2
